US07981903B2
A yellow slurry of 5-(methyloxy)-1-[(4-methylphenyl)sulfonyl]-6-nitro-2,3-dihydro-1H-indole (16.1 g, 46 mmol) and NiCl2.6H2O (3.29 g, 13.9 mmol) in THF (150 mL) and MeOH (300 mL) was treated with NaBH4 (5.2 g, 139 mmol) in small portions. The resulting mixture was stirred for 1 h, concentrated onto Celite and purified by column chromatography using 0-10% MeOH (containing 0.2% NH3)/CH2Cl2to obtain 5-(methyloxy)-1-[(4-methylphenyl)sulfonyl]-2,3-dihydro-1H-indol-6-amine as white solid (11.94 g, 81%). 1H NMR (400 MHz, DMSO-d6) δ ppm 2.33 (s, 3H), 2.63 (t, J=8.15 Hz, 2H), 3.66 (s, 3H), 3.77 (t, J=8.06 Hz 2H), 4.79 (s, 2H), 6.58 (s, 1H), 6.94 (s, 1H), 7.34 (d, J=7.87 Hz, 2H), 7.62 (d, J=7.87 Hz, 2H); ESIMS (M+H)+=320.12.

reactant | 5-(methyloxy)-1-[(4-methylphenyl)sulfonyl]-6-nitro-2,3-dihydro-1H-indole | 46 mmol, 16.1 g | COC=1C=C2CCN(C2=CC1[N+](=O)[O-])S(=O)(=O)C1=CC=C(C=C1)C | C16H16N2O5S
reactant | NaBH4 | 139 mmol, 5.2 g | [BH4-].[Na+]
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | MeOH | 300 mL | CO | CH4O
product | 5-(methyloxy)-1-[(4-methylphenyl)sulfonyl]-2,3-dihydro-1H-indol-6-amine | 11.94 g, 81% | COC=1C=C2CCN(C2=CC1N)S(=O)(=O)C1=CC=C(C=C1)C | C16H18N2O3S
